US07855201B2
Step 1: methyl 5-hydroxynicotinate
A mixture of 1 g of 5-hydroxynicotinic acid, 2 g Amberlyst 15 ion-exchange resin and 150 mL of methanol was heated to reflux with stirring for 24 hrs, cooled, basified with 10% ammonia in methanol, filtered and concentrated under reduced pressure. The residue was taken up in 50 mL of chloroform and dried over MgSO4. Concentration under reduced pressure gave a tan crystalline solid: MS (m+1)=154.1; 1H NMR (400 MHz, CDCl3) 8.68 (s, 1H), 8.32 (s, 1H), 7.72 (s, 1H), 3.94 (s, 3H).

reactant | 5-hydroxynicotinic acid | 1 g | OC=1C=NC=C(C(=O)O)C1 | C6H5NO3
reactant | ammonia | N | H3N
reactant | methanol | CO | CH4O
reactant | methanol | 150 mL | CO | CH4O
product | methyl 5-hydroxynicotinate | OC=1C=NC=C(C(=O)OC)C1 | C7H7NO3
